US04404214
0.94 g of 6-n-butoxy-2-pyridinecarboxylic acid, 10 ml of thionyl chloride and 0.48 g of 5-aminotetrazole are treated in the same manner as described in Example 1. The crude product thus obtained is recrystallized from a mixture of dimethylformamide, water and ethanol, whereby 0.77 g of N-(5-tetrazolyl)-6-n-butoxy-2-pyridinecarboxamide is obtained.

reactant | 6-n-butoxy-2-pyridinecarboxylic acid | 0.94 g | C(CCC)OC1=CC=CC(=N1)C(=O)O | C10H13NO3
reactant | 5-aminotetrazole | 0.48 g | NC1=NN=NN1 | CH3N5
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | N-(5-tetrazolyl)-6-n-butoxy-2-pyridinecarboxamide | 0.77 g | N1N=NN=C1NC(=O)C1=NC(=CC=C1)OCCCC | C11H14N6O2
